US07872003B2
N-{1-[2-(3-Hydroxy-phenyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperidin-4-yl}-acetamide (38)
To 3-[6-(4-Amino-piperidin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenol di-hydrochloride salt (80 mg, 0.16 mmol) in dichloromethane (1.5 mL) and triethylamine (5 eq., 110 μL) was added acetyl chloride (2.5 eq., 29 μL). After stirring at rt for 2 hours, the reaction mixture was diluted with dichloromethane, washed with brine, separated and dried (MgSO4). The crude product was evaporated in vacuo, re-dissolved in methanol (2 mL), to this was added sodium carbonate. The reaction mixture was stirred at RT overnight, evaporated in vacuo, diluted with dichloromethane, washed with brine, separated and dried (MgSO4). The residue was purified by chromatography to give the title compound as a white solid (55 mg).

reactant | 3-[6-(4-Amino-piperidin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenol di-hydrochloride salt | 0.16 mmol, 80 mg | Cl.Cl.NC1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C=1C=C(C=CC1)O
reactant | triethylamine | 110 μL, 5 eq. | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 29 μL, 2.5 eq. | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-{1-[2-(3-Hydroxy-phenyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperidin-4-yl}-acetamide | 55 mg | OC=1C=C(C=CC1)C=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)NC(C)=O)N2CCOCC2 | C24H29N5O3S
